Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Penicillins
 
Attending: ___.
 
Chief Complaint:
s/p fall
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ with alzheimer's dementia, not on anticoagulation, 
transferred from ___ after a unwitnessed fall while 
'pacing the halls' at her nursing home at 5am this morning, +HS, 
-LOC.  Her daughter is at bedside and history is per
daughter/records. Head CT demonstrated a right periorbital and 
sinus fractures and plastic surgery was called.  No other 
injuries were initially identified.  However, on over-read of CT 
Chest, a minimally displaced fracture of right distal clavicle 
was identified.  ACS is consulted for evaluation of multi-system
trauma.  Unable to obtain ROS secondary to severe Alzheimer's 
dementia but patient is resting comfortable at time of exam and 
requesting its cessation.

 
Past Medical History:
PMH: Alzheimer's Dementia, HLD, HTN, Osteoarthritis, GERD,
Anxiety

PSH: None
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission Physical Exam:

Vitals: 98.4 82 113/79 16 96% RA 
GEN: dementia at baseline per family, NAD, resting comfortably
HEENT: No scleral icterus, mucus membranes dry, ecchymosis over
anterior scalp and some periorbital soft tissue swelling.  CN
II-XII grossly intact. No midline bony tenderness of the 
C-spine.
CV: RRR
PULM: Clear, normal WOB, comfortable on RA, no TTP of chest wall
ABD: no ecchymosis or abrasions, soft, nondistended, no rebound
or guarding, no palpable masses
Ext: No ___ edema, ___ warm and well perfused. No TTP, ecchymosis,
or swelling.

Discharge Physical Exam:
VS: T: 98.0, BP: 99/74, HR: 85, RR: 18, O2: 95% RA
General: Alert and interactive, confused to time, place and 
person
HEENT: b/l periorbital ecchymosis 
CV: RRR
PULM: CTA b/l
ABD: soft, non-distended, non-tender to palpation
Extremities: tender to palpation of right clavicle, no erythema, 
edema, induration or ecchymosis, 2+ radial pulse.  No edema in 
all other extremities, warm, well-perfused.  

ABD: 

 
Pertinent Results:
___ 02:35PM URINE  UCG-NEGATIVE
___ 02:35PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:35PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-40 BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 02:35PM URINE  RBC-1 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 10:28AM   GLUCOSE-95 K+-4.1
___ 10:21AM   GLUCOSE-95 UREA N-29* CREAT-0.8 SODIUM-145 
POTASSIUM-4.5 CHLORIDE-107 TOTAL CO2-23 ANION GAP-20
___ 10:21AM   CALCIUM-9.7 PHOSPHATE-3.2 MAGNESIUM-2.2
___ 10:21AM   WBC-16.1* RBC-4.60 HGB-14.5 HCT-45.3* MCV-99* 
MCH-31.5 MCHC-32.0 RDW-12.7 RDWSD-45.7
___ 10:21AM   NEUTS-80.6* LYMPHS-11.9* MONOS-6.5 EOS-0.3* 
BASOS-0.3 IM ___ AbsNeut-12.98* AbsLymp-1.92 AbsMono-1.04* 
AbsEos-0.05 AbsBaso-0.05
___ 10:21AM   PLT COUNT-241
___ 10:21AM   ___ PTT-26.4 ___

IMAGING:

___: CT SINUS/MANDIBLE/MAXILLOFACIAL W/O CONTRAST:
1.  Comminuted right maxillary fracture causing opacification of 
the right 
maxillary sinus. 
  
2.  Minimally displaced fracture of the right zygoma constitutes 
a right 
inferior lateral orbital wall fracture.  Minimally displaced 
orbital floor is also noted, which involves the infraorbital 
canal.  A small amount of air is identified in the right orbit, 
secondary to the fracture. 
  
3.  There is minimal stranding of the right inferior rectus 
muscle secondary to changes from right orbital floor fracture.  
Otherwise, the extraocular muscles are unremarkable.  The orbits 
are otherwise unremarkable. 
  
3.  Large amount of soft tissue swelling fat stranding and 
subcutaneous gas involving the soft tissues inferior and lateral 
to the right orbit. 

___: CT Chest:
1.  Somewhat limited study, as the patient was not able to 
tolerate laying 
still.  Only 30 cc of IV contrast was administered, as the IV 
was about to 
infiltrate. 
  
2.  Minimally displaced right distal clavicle fracture.  Age 
indeterminate L1 compression fracture may be chronic.  
Clinically correlate. 
  
3.  Extensive atherosclerotic calcifications involving the 
coronary arteries and abdominal aorta, with extension into the 
iliac and femoral vessels. 

___: Dx Shoulder:
1. Mildly displaced right distal clavicular fracture. 
2. Type 2 right AC joint separation. 
  
___: Pelvis (AP):
Diffuse osteopenia.  No definite acute fracture or dislocation.
 
Brief Hospital Course:
Ms. ___ is an ___ female w/ history of alzheimer's 
dementia, not on anticoagulation, transferred from ___ 
after a unwitnessed fall.  Head CT demonstrated a right 
periorbital and sinus fractures and plastic surgery was called. 
On over-read of CT Chest, a minimally displaced fracture of 
right distal clavicle
was identified. Orthopaedics was called and recommended 
nonoperative management and a sling for comfort.  ACS was 
consulted and admitted the patient for evaluation of 
multi-system trauma.   

On HD1, consults were placed for Physical and Occupational 
therapy.  It was recommended that the patient be discharged to 
rehab to continue her recovery.  
Per baseline, the patient was confused, but alert throughout 
hospitalization; pain was managed with po tramadol. The patient 
remained stable from a cardiovascular and pulmonary standpoint; 
vital signs were routinely monitored. Good pulmonary toilet, 
early ambulation and incentive spirometry were encouraged 
throughout hospitalization. The patient tolerated a regular diet 
and intake and output were closely monitored.  The patient's 
fever curves were closely watched for signs of infection, of 
which there were none.  UA was negative for infection. The 
patient's blood counts were closely watched for signs of 
bleeding, of which there were none.
The patient received subcutaneous heparin and ___ dyne boots 
were used during this stay and was encouraged to get up and 
ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
out of bed to chair, voiding without assistance, and pain was 
well controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
Valproate, decussate, donepezil, levothyroxine, memantine,
mirtazapine, naproxen, omeprazole, lutein, rozerem, simvastatin,
vitamin D, disacodyl, trazadone
(of note no anticoagulation including no ASA per family)

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO DAILY 
please hold for loose stool   
3.  TraMADol 25 mg PO Q4H:PRN Pain - Moderate  
4.  Divalproex (DELayed Release) 125 mg PO DAILY  
5.  Donepezil 10 mg PO QHS  
6.  Levothyroxine Sodium 50 mcg PO DAILY  
7.  Memantine 10 mg PO DAILY  
8.  Mirtazapine 7.5 mg PO QHS  
9.  Omeprazole 20 mg PO DAILY  
10.  Ramelteon 8 mg PO QHS  
11.  Simvastatin 40 mg PO QPM  
12.  TraZODone 50 mg PO QHS  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
-Right shoulder nondisplaced oblique right clavicle fracture
-Right minimally displaced orbital floor fracture 
-Right comminuted anterior maxillary sinus fracture 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital after a fall and were found to 
have a right clavicle fracture and right orbital floor and 
maxillary sinus (facial) fractures.  Your clavicle fracture was 
evaluated by the Orthopaedics service and it did not require an 
operation.  You may wear a sling for comfort.  Your facial 
fractures were evaluated by the Plastic surgery service and are 
being managed non-operatively. To help decrease facial swelling, 
you may apply ice sinus to your facial injuries and may elevate 
the head of your bed or use pillows to prop yourself up so the 
head of the bed is greater than 45 degrees.  Please maintain 
sinus precautions for 2 (two) weeks. 

You are now medically cleared to be discharged to rehab to 
continue your recovery.  Please note the following discharge 
instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

For your facial fractures, certain precautions will assist 
healing and we ask that you faithfully follow these 
instructions:

1. Take the prescribed medications as directed.

2. Do not forcefully spit for several days.

3. Do not smoke for several days.

4. Do not use straws for several days.

5. Do not forcefully blow your nose for at least 2 weeks, even 
though your sinus may feel “stuffy” or there may be some nasal 
drainage.

6. Try not to sneeze; it will cause undesired sinus pressure. If 
you must sneeze, keep your mouth open.

7. Eat only soft foods for several days, always trying to chew 
on the opposite side of your mouth.

8. Do not rinse vigorously for several days. GENTLE salt water 
swishes may be used. Slight bleeding from the nose is not 
uncommon for several days after the surgery. Please keep our 
office advised of any changes in your condition, especially if 
drainage or pain increases. It is important that you keep all 
future appointments until this condition has resolved.

 

 
Followup Instructions:
___